US06153652
Synthesis of 2-[(thien-3-yl)acetamido]butyric acid iso-butyl ester
Following General Procedure I' above and using 3-thiopheneacetic acid (Aldrich) and iso-butyl 2-aminobutyrate (prepared following General Procedure J' above), the title compound was prepared. The reaction was monitored by tlc on silica gel and purification was by filtration as described in the general procedure.

reactant | 3-thiopheneacetic acid | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | iso-butyl 2-aminobutyrate | NC(C(=O)OCC(C)C)CC | C8H17NO2
product | 2-[(thien-3-yl)acetamido]butyric acid iso-butyl ester | C(C(C)C)OC(C(CC)NC(CC1=CSC=C1)=O)=O | C14H21NO3S
